US09079866B2
N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]acetamide
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and N-(2-bromophenyl)acetamide. MS (ESI): mass calcd. for C18H15FN4O, 322.12; m/z found, 322.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 9.40 (s, 1H), 8.38 (s, 1H), 8.02 (s, 1H), 7.91 (m, 1H), 7.53-7.21 (m, 6H), 6.73 (s, 2H), 1.92 (s, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | N-(2-bromophenyl)acetamide | BrC1=C(C=CC=C1)NC(C)=O | C8H8BrNO
product | N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]acetamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)NC(C)=O)F | C18H15FN4O
